US08957080B2
Synthesis of (R)-2-(3-(4-amino-3-(4-(3,5-difluorophenoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carbonyl)-3-cyclopropylacrylonitrile
Into a 50 mL round-bottom flask, was placed a solution of 3-[(3R)-3-[4-amino-3-[4-(3,5-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile (150 mg, 0.31 mmol, 1.00 equiv) in methanol (20 mL), cyclopropanecarbaldehyde (64 mg, 0.91 mmol, 3.00 equiv), piperidine (13 mg, 0.15 mmol, 0.50 equiv), and dichloromethane (5 mL). The resulting solution was stirred for 12 h at room temperature and then concentrated under vacuum. The residue was loaded onto a silica gel column and eluted with dichloromethane/methanol (100:1) to give 70 mg (42%) of the title compound as a white solid. LC-MS: (ES, m/z): 542 [M+H]+. 1HNMR (300 MHz, CDCl3, ppm) 8.405 (1H, s), 7.762˜7.715 (2H, m), 7.282˜7.223 (2H, m), 6.656˜6.575 (4H, m), 6.696 (2H, s), 5.022˜4.924 (1H, m), 4.8˜2.9 (4H, m), 2.424˜2.301 (2H, m), 2.271˜2.259 (3H, d), 1.295˜1.228 (2H, t), 0.903˜0.892 (2H, d).

reactant | 3-[(3R)-3-[4-amino-3-[4-(3,5-difluorophenoxy)phenyl]-1H-pyrazolo[3,4-d]pyrimidin-1-yl]piperidin-1-yl]-3-oxopropanenitrile | 0.31 mmol, 150 mg, 1.00 equiv | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC(=CC(=C2)F)F)[C@H]2CN(CCC2)C(CC#N)=O | C25H21F2N7O2
reactant | cyclopropanecarbaldehyde | 0.91 mmol, 64 mg, 3.00 equiv | C1(CC1)C=O | C4H6O
reactant | piperidine | 0.15 mmol, 13 mg, 0.50 equiv | N1CCCCC1 | C5H11N
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | methanol | 20 mL | CO | CH4O
product | (R)-2-(3-(4-amino-3-(4-(3,5-difluorophenoxy)phenyl)-1H-pyrazolo[3,4-d]pyrimidin-1-yl)piperidine-1-carbonyl)-3-cyclopropylacrylonitrile | 70 mg, 42% | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)OC2=CC(=CC(=C2)F)F)[C@H]2CN(CCC2)C(=O)C(C#N)=CC2CC2 | C29H25F2N7O2
